US04472305
Condensation of BocGlyOH (4.4 g.) and HLeu-MetNH2 hydrochloride salt (Example 1, 7.5 g.) using dicyclohexylcarbodiimide and N-hydroxysuccinimide gave BocGly-Leu-MetNH2 in 51% yield. De-t-butoxycarbonylation of BocGly-Leu-MetNH2 using hydrogen chloride in acetic acid gave HGly-Leu-MetNH2 hydrochloride salt in 56% yield.

reactant | BocGly-Leu-MetNH2 | N(CC(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CCSC)C(=O)N)C(=O)OC(C)(C)C | C18H34N4O5S
reactant | hydrogen chloride | Cl | ClH
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | HGly-Leu-MetNH2 hydrochloride | 56% yield | NCC(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CCSC)C(=O)N.Cl | InChI=1S/C13H26N4O3S.ClH/c1-8(2)6-10(16-11(18)7-14)13(20)17-9(12(15)19)4-5-21-3;/h8-10H,4-7,14H2,1-3H3,(H2,15,19)(H,16,18)(H,17,20);1H/t9-,10-;/m0./s1
